US06969716B2
5-(3-Bromo-4-fluorophenyl)-3-(4-methoxyphenyl)-[1,2,4]triazine (100 mg, 0.28 mmol) was coupled to 3-fluoro-2-tributylstannylpyridine (129 mg, 0.33 mmol) using the method described in Example 22 to give 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-(4-methoxyphenyl)-[1,2,4]triazine as a pale yellow solid (40 mg): δH (400 MHz, CDCl3) 3.91 (3H, s), 7.04-7.08 (2H, m), 7.39-7.47 (2H, m), 7.56-7.61 (1H, m), 8.41-8.45 (1H, m), 8.54 (1H, dd, J 2.3, 6.7 Hz), 8.60-8.64 (3H, m), 9.57 (1H, s); m/z (ES+) 377.

reactant | 5-(3-Bromo-4-fluorophenyl)-3-(4-methoxyphenyl)-[1,2,4]triazine | 0.28 mmol, 100 mg | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)C1=CC=C(C=C1)OC | C16H11BrFN3O
reactant | 3-fluoro-2-tributylstannylpyridine | 0.33 mmol, 129 mg | FC=1C(=NC=CC1)[Sn](CCCC)(CCCC)CCCC
product | 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-(4-methoxyphenyl)-[1,2,4]triazine | 40 mg | FC1=C(C=C(C=C1)C=1N=C(N=NC1)C1=CC=C(C=C1)OC)C1=NC=CC=C1F | C21H14F2N4O
